US08232294B2
(R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(methylamino)acetate ethanesulfonate
The title compound was prepared according to the procedure described in Example 39 step 3 by using (R)-1-(4-(4-(7-methoxyquinolin-4-yloxy)-3-fluorophenylcarbam-oyl)-2,3-dihydro-5-methyl-3-oxo-2-phenylpyrazol-1-yl)propan-2-yl 2-(methylamino)acetate (82.3 mg, 0.134 mmol) and ethanesulfonic acid (29.5 mg, 0.268 mmol, Alfa Aesar). The title compound was abtained as a yellow solid (72.8 mg, 65%).

reactant | (R)-1-(4-(4-(7-methoxyquinolin-4-yloxy)-3-fluorophenylcarbam-oyl)-2,3-dihydro-5-methyl-3-oxo-2-phenylpyrazol-1-yl)propan-2-yl 2-(methylamino)acetate | 0.134 mmol, 82.3 mg | CNCC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)=O)C1=CC=CC=C1)C | C33H32FN5O6
reactant | ethanesulfonic acid | 0.268 mmol, 29.5 mg | C(C)S(=O)(=O)O | C2H6O3S
product | (R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(methylamino)acetate ethanesulfonate | C(C)S(=O)(=O)O.CNCC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)=O)C1=CC=CC=C1)C | InChI=1S/C33H32FN5O6.C2H6O3S/c1-20(44-30(40)18-35-3)19-38-21(2)31(33(42)39(38)23-8-6-5-7-9-23)32(41)37-22-10-13-29(26(34)16-22)45-28-14-15-36-27-17-24(43-4)11-12-25(27)28;1-2-6(3,4)5/h5-17,20,35H,18-19H2,1-4H3,(H,37,41);2H2,1H3,(H,3,4,5)/t20-;/m1./s1
